US04472305
Condensation of BocPro-Phe-MePheNHNH2 (0.86 g.) and HSar-Leu-MetNH2 (Example 3, 0.63 g.) by the acyl azide method (Yajima et al., Chem. Pharm. Bull., vol. 19, p. 1900, 1971) gave BocPro-Phe-MePhe-Sar-Leu-MetNH2 in 75% yield. De-t-butoxycarbonylation of BocPro-Phe-MePhe-Sar-Leu-MetNH2 (0.90 g.) using trifluoroacetic acid in methylene dichloride gave HPro-Phe-MePhe-Gly-Leu-MetNH2, which was isolated as the amorphous white solid phosphate (1:1) salt in 59% yield.

reactant | BocPro-Phe-MePhe-Sar-Leu-MetNH2 | 0.90 g | N1([C@H](C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)N([C@@H](CC2=CC=CC=C2)C(=O)N(C)CC(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCSC)C(=O)N)C)CCC1)C(=O)OC(C)(C)C | C43H63N7O8S
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene dichloride | C(Cl)Cl | CH2Cl2
product | HPro-Phe-MePhe-Gly-Leu-MetNH2 | N1[C@H](C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)N([C@@H](CC2=CC=CC=C2)C(=O)NCC(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCSC)C(=O)N)C)CCCC1 | C38H55N7O6S
